US06262106B1
2-(3-ethylphenyl)-2-adamantanecarboximidamide hydrochloride
A solution of 2-(3-ethylphenyl)-2-adamantanecarbonitrile (265 mg, 1 mmol) and NH4Cl (107 mg, 2 mmol) in dry toluene (5 mL) under argon was treated dropwise with 2-M trimethylaluminium in toluene (1.0 mL, 2 mmol), refluxed for 12 h, cooled to room temperature and purified directly by chromatography [SiO2; EtOAc—MeOH (9:1)] to give the title compound (178 mg, 56%) as a white solid: mp >300° C.; IR νmax (Nujol)/cm−1 2921, 2855, 1669, 1454, 1377, 1089, 798, 744 and 704; NMR δH (400 MHz, DMSO-d6) 1.18 (3H, t, J 8.0 Hz), 1.55-1.69 (7H, m), 1.83 (5H, s), 2.60 (2H, q, J 8.0 Hz), 3.15 (2H, s), 7.10-7.17 (1H, m), 7.27-7.38 (3H, m) and 8.88 (4H, br s); Anal. Calcd for C19H27ClN2.0.35 H2O: C, 70.18; H, 8.59; N, 8.61. Found: C, 70.25; H, 8.41; N, 8.46.

reactant | 2-(3-ethylphenyl)-2-adamantanecarbonitrile | 1 mmol, 265 mg | C(C)C=1C=C(C=CC1)C1(C2CC3CC(CC1C3)C2)C#N | C19H23N
reactant | NH4Cl | 2 mmol, 107 mg | [NH4+].[Cl-]
reactant | trimethylaluminium | C[Al](C)C
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 2 mmol, 1.0 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-ethylphenyl)-2-adamantanecarboximidamide hydrochloride | 178 mg, 56% | Cl.C(C)C=1C=C(C=CC1)C1(C2CC3CC(CC1C3)C2)C(N)=N | InChI=1S/C19H26N2.ClH/c1-2-12-4-3-5-15(7-12)19(18(20)21)16-8-13-6-14(10-16)11-17(19)9-13;/h3-5,7,13-14,16-17H,2,6,8-11H2,1H3,(H3,20,21);1H
